### PR TITLE
[Merged by Bors] - chore(Order/Birkhoff): remove unnecessary assumption

### PR DESCRIPTION
**Pull request by faenuccio**
Remove the assumption that the type be a distributive lattice when partial order suffices in Birkhoff's representation theorem.

Co-authored by : Sam van Gool @samvang 

---

### CODE REVIEW

File: Mathlib/Order/Birkhoff.lean [hunk 1]
```diff
@@ -78,9 +79,7 @@ variable [SemilatticeSup α] {s : LowerSet α} {a : α}
   exact this.imp (fun ha ↦ (le_sup_left.trans_eq hst).antisymm <| Iic_le.2 ha) fun ha ↦
     (le_sup_right.trans_eq hst).antisymm <| Iic_le.2 ha
 
-variable [Finite α]
-
-@[simp] lemma supIrred_iff_of_finite : SupIrred s ↔ ∃ a, Iic a = s := by
+@[simp] lemma  supIrred_iff_of_finite [Finite α] : SupIrred s ↔ ∃ a, Iic a = s := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Birkhoff.lean:82]:
```suggestion
@[simp] lemma supIrred_iff_of_finite [Finite α] : SupIrred s ↔ ∃ a, Iic a = s := by
```

File: Mathlib/Order/Birkhoff.lean [hunk 2]
```diff
@@ -89,18 +88,57 @@ variable [Finite α]
...
+  intro ⟨_, hs⟩
+  obtain ⟨a, ha⟩ := supIrred_iff_of_finite.mp hs
+  use a
+  exact Subtype.ext <| OrderEmbedding.supIrredLowerSet_apply ha
+
+/-- **Birkhoff's Representation Theorem**. Any nonempty finite distributive lattice is isomorphic
+to its lattice of sup-irreducible lower sets. This is one version of Birkhoff's representation
+theorem. -/
+noncomputable def OrderIso.supIrredLowerSet : α ≃o {s : LowerSet α // SupIrred s} :=
+    RelIso.ofSurjective  _ (supIrredLowerSet_surjective)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Birkhoff.lean:126]:
```suggestion
noncomputable def OrderIso.supIrredLowerSet : α ≃o {s : LowerSet α // SupIrred s} :=
  RelIso.ofSurjective _ supIrredLowerSet_surjective
```

File: Mathlib/Order/Birkhoff.lean [hunk 3]
```diff
@@ -223,11 +238,15 @@ lemma birkhoffFinset_injective : Injective (birkhoffFinset α) :=
 
 end LatticeHom
 
+variable [DecidableEq α] [@DecidablePred α SupIrred]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Birkhoff.lean:241]: I doubt this serves any purpose at this point, since the lemma below shadows this α with its own. What happens when you remove this line?

File: Mathlib/Order/Birkhoff.lean [hunk 4]
```diff
@@ -162,6 +176,7 @@ powerset lattice. -/
 noncomputable def birkhoffFinset : α ↪o Finset {a : α // SupIrred a} := by
   exact (birkhoffSet _).trans Fintype.finsetOrderIsoSet.symm.toOrderEmbedding
 
+
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Birkhoff.lean:179]: No need to add more empty lines randomly

**Review by Ruben-VandeVelde — COMMENTED** [review]
A bit of nitpicking:

File: Mathlib/Order/Birkhoff.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/Order/Birkhoff.lean:179]: Thanks!

File: Mathlib/Order/Birkhoff.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Order/Birkhoff.lean:241]: Good catch, thanks!

File: Mathlib/Order/Birkhoff.lean [hunk 5]
```diff
@@ -89,18 +88,57 @@ variable [Finite α]
...
+def OrderEmbedding.supIrredLowerSet : α ↪o {s : LowerSet α // SupIrred s} where
+  toFun := fun a => ⟨LowerSet.Iic a, by simp only [supIrred_Iic]⟩
+  inj' := fun _ => by simp_all only [Subtype.mk.injEq, LowerSet.Iic_inj, implies_true]
+  map_rel_iff' := by simp only [Function.Embedding.coeFn_mk, Subtype.mk_le_mk, Iic_le, mem_Iic_iff,
+    implies_true]
+
+variable {α}
+
+lemma OrderEmbedding.supIrredLowerSet_apply {a : α} {s : LowerSet α} (ha : LowerSet.Iic a = s) :
+    ((OrderEmbedding.supIrredLowerSet α) a) = s := by
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Order/Birkhoff.lean:111]: Removed the brackets but not sure to see what you want with `ha`. Perhaps see this lemma's usage below?

File: Mathlib/Order/Birkhoff.lean [hunk 6]
```diff
@@ -89,18 +88,57 @@ variable [Finite α]
...
+  unfold OrderEmbedding.supIrredLowerSet
+  simp_all only [supIrred_iff_of_finite, RelEmbedding.coe_mk, Embedding.coeFn_mk]
+
+-- Birkhoff's Embedding is actually surjective
+lemma supIrredLowerSet_surjective : Function.Surjective (OrderEmbedding.supIrredLowerSet α) := by
+  intro ⟨_, hs⟩
+  obtain ⟨a, ha⟩ := supIrred_iff_of_finite.mp hs
+  use a
+  exact Subtype.ext <| OrderEmbedding.supIrredLowerSet_apply ha
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:120]:
```suggestion
  obtain ⟨a, rfl⟩ := supIrred_iff_of_finite.mp hs
  use a
  exact Subtype.ext <| OrderEmbedding.supIrredLowerSet_apply _
```
is what I mean

Comment (faenuccio) [reply Mathlib/Order/Birkhoff.lean:120]: OK, I have golfed it a bit.

File: Mathlib/Order/Birkhoff.lean [hunk 7]
```diff
@@ -89,18 +88,57 @@ variable [Finite α]
...
+
+/-- **Birkhoff's Representation Theorem**. Any nonempty finite distributive lattice is isomorphic
+to its lattice of sup-irreducible lower sets. This is one version of Birkhoff's representation
+theorem. -/
+noncomputable def OrderIso.supIrredLowerSet : α ≃o {s : LowerSet α // SupIrred s} :=
+  RelIso.ofSurjective _ supIrredLowerSet_surjective
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Order/Birkhoff.lean:126]: OK, I have added some lemmas to cope with it, I believe that `defeq` is finally not so important here.

File: Mathlib/Order/Birkhoff.lean [hunk 8]
```diff
@@ -89,18 +88,81 @@ variable [Finite α]
     exact supIrred_Iic _
 
 end LowerSet
+section PartialOrder
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:91]:
```suggestion

section PartialOrder
```

File: Mathlib/Order/Birkhoff.lean [hunk 9]
```diff
@@ -89,18 +88,81 @@ variable [Finite α]
...
+    implies_true]
+
+variable {α}
+
+lemma OrderEmbedding.supIrredLowerSet_apply {a : α} {s : LowerSet α} (ha : LowerSet.Iic a = s) :
+    OrderEmbedding.supIrredLowerSet α a = s := by
+  unfold OrderEmbedding.supIrredLowerSet
+  simp_all only [supIrred_iff_of_finite, RelEmbedding.coe_mk, Embedding.coeFn_mk]
+
+-- Birkhoff's Embedding is actually surjective
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:115]: Make that comment a docstring or remove it

File: Mathlib/Order/Birkhoff.lean [hunk 10]
```diff
@@ -194,15 +232,14 @@ variable [DecidableEq α]
   rw [birkhoffSet_inf, OrderIso.coe_toOrderEmbedding]
   simpa using OrderIso.map_inf _ _ _
 
-variable [OrderBot α]
-
-@[simp] lemma birkhoffSet_apply (a : α) : birkhoffSet α a = OrderIso.lowerSetSupIrred a := by
+@[simp] lemma birkhoffSet_apply [OrderBot α] (a : α) :
+    birkhoffSet α a = OrderIso.lowerSetSupIrred a := by
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:236]:
```suggestion
@[simp] lemma birkhoffSet_apply [OrderBot α] (a : α) : birkhoffSet α a = OrderIso.lowerSetSupIrred a := by
```

File: Mathlib/Order/Birkhoff.lean [hunk 11]
```diff
@@ -228,6 +265,7 @@ lemma exists_birkhoff_representation.{u} (α : Type u) [Finite α] [DistribLatti
       Injective f := by
   classical
   cases nonempty_fintype α
-  exact ⟨{a : α // SupIrred a}, _ , by infer_instance, _, LatticeHom.birkhoffFinset_injective _⟩
+  exact ⟨{a : α // SupIrred a}, _, by infer_instance, LatticeHom.birkhoffFinset _,
+    LatticeHom.birkhoffFinset_injective _⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:269]:
```suggestion
  exact ⟨{a : α // SupIrred a}, _, inferInstance, _, LatticeHom.birkhoffFinset_injective _⟩
```

File: Mathlib/Order/Birkhoff.lean [hunk 12]
```diff
@@ -119,34 +181,10 @@ noncomputable def OrderIso.lowerSetSupIrred : α ≃o LowerSet {a : α // SupIrr
...
-        simp }
-    (fun b c hbc d ↦ le_trans' hbc) fun s t hst ↦ Finset.sup_mono <| Set.toFinset_mono hst
-
-end Fintype
-
 variable (α)
 
 namespace OrderEmbedding
-variable [Fintype α] [@DecidablePred α SupIrred]
+variable [Fintype α]
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:187]: Same here. You're making `OrderEmbedding.birkhoffFinset` less general.

File: Mathlib/Order/Birkhoff.lean [hunk 13]
```diff
@@ -89,18 +88,81 @@ variable [Finite α]
...
+  rw [OrderEmbedding.inv_eq_OrderIso.symm, (OrderIso.symm_apply_eq (OrderIso.supIrredLowerSet α))]
+  rfl
+
+@[simp]
+lemma OrderIso.inv_Iic_apply (a : α) : (OrderIso.supIrredLowerSet α).symm
+    (⟨LowerSet.Iic a, supIrred_Iic a⟩ : {s : LowerSet α // SupIrred s}) = a :=
+  (OrderIso.symm_apply_eq (OrderIso.supIrredLowerSet α)).mpr rfl
+
+end PartialOrder
 section DistribLattice
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:153]:
```suggestion

section DistribLattice
```

File: Mathlib/Order/Birkhoff.lean [hunk 14]
```diff
@@ -89,18 +88,81 @@ variable [Finite α]
...
+
+/-- **Birkhoff's Representation Theorem**. Any nonempty finite distributive lattice is isomorphic
+to its lattice of sup-irreducible lower sets. This is one version of Birkhoff's representation
+theorem. -/
+noncomputable def OrderIso.supIrredLowerSet : α ≃o {s : LowerSet α // SupIrred s} :=
+  RelIso.ofSurjective _ supIrredLowerSet_surjective
+
+/-- An explicit inverse of `OrderEmbedding.supIrredLowerSet`, useful to build a bit of API -/
+noncomputable def OrderEmbedding.inv (s : {x : LowerSet α // SupIrred x}) : α :=
+  (supIrred_iff_of_finite.mp s.2).choose
```
Comment (YaelDillies) [inline Mathlib/Order/Birkhoff.lean:131]: I wouldn't call that "explicit" 😄 Why not just use `(OrderIso.supIrredLowerSet α).symm`?

File: Mathlib/Order/Birkhoff.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/Birkhoff.lean]: Can you now replace `s` by `LowerSet.Iic a` everywhere in the statement?

File: Mathlib/Order/Birkhoff.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/Birkhoff.lean:127]: Can you simply state that your new definition is equal to my old one?

File: Mathlib/Order/Birkhoff.lean (hunk 9 above)
Comment (samvang) [reply Mathlib/Order/Birkhoff.lean]: Removed it

File: Mathlib/Order/Birkhoff.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Order/Birkhoff.lean:130]: Added in OrderEmbedding.inv_SemilatticeSup below.

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
